US06417192B1
8-Bromo-1-(4-chlorophenyl)-1-hydroxyoctane
To a solution of 8-bromo-1-(4-chlorophenyl)octan-1-one (0.95 g) in industrial methylated spirit (10 ml) was added sodium borohydride (0.115 g) at −10° C. After stirring for 1 h, glacial acetic acid (0.2 g) was added and the mixture was poured into water (60 ml) and extracted with diethyl ether. The diethyl ether layer was washed with brine and dried over magnesium sulfate. Removal of the solvent under reduced pressure gave an oil that was chromatographed on silica gel using dichloromethane as eluent. This gave 8-bromo-1-(4-chlorophenyl)-1-hydroxyoctane (0.70 g). 1H-NMR (CDCl3) δ 1.15-1.95 (12H, m), 3.40 (2H, t), 4.65 (1H, t) and 7.2-7.4 (4H, m).

reactant | 8-bromo-1-(4-chlorophenyl)octan-1-one | 0.95 g | BrCCCCCCCC(=O)C1=CC=C(C=C1)Cl | C14H18BrClO
reactant | sodium borohydride | 0.115 g | [BH4-].[Na+]
reactant | acetic acid | 0.2 g | C(C)(=O)O | C2H4O2
solvent | water | 60 ml | O | H2O
product | 8-Bromo-1-(4-chlorophenyl)-1-hydroxyoctane | BrCCCCCCCC(O)C1=CC=C(C=C1)Cl | C14H20BrClO
